US04036633
A mixture of 23.5 g of m-(n-butylcarbamoyloxy)-acetylacetanilide 15 g of methyl orthoformate, 75 ml of methanol and 0.5 g of p-toluene sulfonic acid was stirred for 24 hours and 1 ml of quinoline was then added. The solvent was evaporated and the residue was chromatographed over silica. Elution with an 8-2 methylene chloride-acetone mixture yielded 20 g of m-(n-butylcarbamoyloxy)-3,3-dimethoxy-butyranilide melting at 114°C. STEP B: m-(n-butylcarbamoyloxy)-3-methoxy-crotonanilide

reactant | m-(n-butylcarbamoyloxy)-acetylacetanilide | 23.5 g | C(CCC)NC(=O)OC=1C=C(NC(CC(C)=O)=O)C=CC1 | C15H20N2O4
reactant | methyl orthoformate | C(OC)([O-])[O-]
reactant | p-toluene sulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | quinoline | 1 ml | N1=CC=CC2=CC=CC=C12 | C9H7N
solvent | methanol | 75 ml | CO | CH4O
product | m-(n-butylcarbamoyloxy)-3,3-dimethoxy-butyranilide | 20 g | C(CCC)NC(=O)OC=1C=C(NC(CC(C)(OC)OC)=O)C=CC1 | C17H26N2O5
